US05254683
3,5-dibromotoluene (78.92 g, 0.316 mole) was dissolved in 1.27 L of carbon tetrachloride; to this solution was added N-bromosuccinimide (61.65 g, 0.346 mole) at room temperature. A portion of dibenzoyl peroxide (0.6 g, 0.008 equivalents) was added and the solution heated to reflux temperature for 2.5 hours. The reaction mixture was cooled to room temperature, filtered and the solvent removed in vacuo to yield a solid. The solid was dissolved in 200 mL of warm hexane, filtered and cooled to room temperature. Crystallizations ensued; the crystals were filtered off and washed with cold hexane and air dried to give 45.15 g (44%) of 3,5-dibromobenzyl bromide. 1H-NMR(CDCl3); δ 7.6 (1H), 7.47 (2H), 4.36 (2H).

reactant | 3,5-dibromotoluene | 0.316 mole, 78.92 g | BrC=1C=C(C=C(C1)Br)C | C7H6Br2
reactant | N-bromosuccinimide | 0.346 mole, 61.65 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 1.27 L | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | 200 mL | CCCCCC | C6H14
catalyst | dibenzoyl peroxide | 0.6 g, 0.008 equivalents | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3,5-dibromobenzyl bromide | 45.15 g, 44% | BrC=1C=C(CBr)C=C(C1)Br | C7H5Br3
